US06221873B1
6-benzylamino-2-chloro-9-isopropylpurine (2)
2,6-dichloro-9-isopropylpurine (1 mmol) and benzylamine (3,5 mmol) were heated with stirring in 3 ml of n-butanol (3 hour, 110° C.). The reaction mixture (after evaporation of n-butanol) was worked up as above for the compound 2, yield 85-90%.

reactant | 2,6-dichloro-9-isopropylpurine | 1 mmol | ClC1=NC(=C2N=CN(C2=N1)C(C)C)Cl | C8H8Cl2N4
reactant | benzylamine | 3,5 mmol | C(C1=CC=CC=C1)N | C7H9N
solvent | n-butanol | 3 ml | C(CCC)O | C4H10O
product | 6-benzylamino-2-chloro-9-isopropylpurine | yield 85-90% | C(C1=CC=CC=C1)NC1=C2N=CN(C2=NC(=N1)Cl)C(C)C | C15H16ClN5
